US09029399B2
Preparation of intermediate methyl 5-bromo-6-fluorobenzo[b]thiophene-2-carboxylate (I-28b)
Using analogous reaction condition and reagents as described in Example 25 for the preparation of I-25a above, 5-bromo-2,4-difluorobenzaldehyde (I-28a: 475 mg, 2.149 mmol) was reacted with TEA (0.748 mL, 5.372 mmol), mercapto-acetic acid methyl ester (0.211 mL, 2.36 mmol) and DMSO (4 mL) to afford crude product. Purification by column chromatography on silica gel (1.5% ethyl acetate in hexane) afforded 30 mg of the product (5% yield).

reactant | 5-bromo-2,4-difluorobenzaldehyde | 2.149 mmol, 475 mg | BrC=1C(=CC(=C(C=O)C1)F)F | C7H3BrF2O
reactant | mercapto-acetic acid methyl ester | 2.36 mmol, 0.211 mL | COC(CS)=O | C3H6O2S
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | methyl 5-bromo-6-fluorobenzo[b]thiophene-2-carboxylate | 30 mg, 5% yield | BrC1=CC2=C(SC(=C2)C(=O)OC)C=C1F | C10H6BrFO2S
